US07723367B2
3-(azidomethyl)-2-chloro-5-fluoropyridine
(2-chloro-5-fluoro-pyridin-3-yl)-methanol, thionyl chloride and sodium azide were processed according to the method of Example 115A to provide the product. MS (ESI+) m/z 187 (M+H)+.

reactant | (2-chloro-5-fluoro-pyridin-3-yl)-methanol | ClC1=NC=C(C=C1CO)F | C6H5ClFNO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
product | 3-(azidomethyl)-2-chloro-5-fluoropyridine | N(=[N+]=[N-])CC=1C(=NC=C(C1)F)Cl | C6H4ClFN4
